US03976660
A stirred suspension of 59 g. (0.75 g-atom) of activated zinc in 500 ml. of dry tetrahydrofuran containing a crystal of iodine is brought to reflux under nitrogen. To this is added slowly a solution of 12.1 g. (0.50 mol.) of benzyl 7-formylheptanoate and 117 g. (0.60 mol.) of t-butyl bromoacetate in 500 ml. of dry tetrahydrofuran. Within a few minutes, the solution becomes cloudy and the iodine color disappears, indicating that the reaction has started. After the addition is complete (30 minutes), the mixture is stirred and refluxed for an additional hour. The cooled solution is then poured into 0.1 N hydrochloric acid and the pH adjusted to 2 with 2 N hydrochloric acid. The excess zinc is filtered off and the filtrate thoroughly extracted with ethyl acetate. The combined extracts are dried and concentrated in vacuo to give crude 3-hydroxydecanedioic acid 10-benzyl ester-1-t-butyl ester.

reactant | iodine | II | I2
reactant | benzyl 7-formylheptanoate | 0.50 mol | C(=O)CCCCCCC(=O)OCC1=CC=CC=C1 | C15H20O3
reactant | t-butyl bromoacetate | 0.60 mol | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | 0.1 N | Cl | ClH
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | zinc | 0.75 g | [Zn] | Zn
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydroxydecanedioic acid 10-benzyl ester-1-t-butyl ester | C(C)(C)(C)OC(CC(CCCCCCC(=O)OCC1=CC=CC=C1)O)=O | C21H32O5
